2196-09-23 07:29:00 Physician Resident Progress Note
Chief Complaint: dyspnea
   24 Hour Events:
   [**2196-9-22**]:
   TTE: LA mod dilated, RA mod dilated, mild LVH with normal LVEF > 55%.
   aortic valve homograft appears well seated, with normal leaflet/disc
   motion and transvalvular gradients. Trace AR, ([**1-8**]+) MR. [**First Name (Titles) **] [**Last Name (Titles) **]
   systolic hypertension.
   2 units PRBCs given with good response.
   Ceftriaxone added, Levo changed from PO to IV
   Renal consult --> obtain renal u/s and urine lytes
   Renal u/s pending
   Needs Chest CT w/o contrast this AM
 will get abd/pel as well to
   better evaluate kidneys
   Allergies:
   Ativan (Injection) (Lorazepam)
   delirium;
   Morphine
   delirium;
   Last dose of Antibiotics:
   Ceftriaxone - [**2196-9-22**] 05:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-9-22**] 04:19 PM
   Other medications:
   Changes to medical and family history:
   anxious this morning, denies fevers/chills, has non-productive dry
   cough; dyspnea improving, (-) chest pain/pressure, had large BM
   yesterday, no melena, hematochezia, or BRBPR
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Respiratory: Cough, No(t) Dyspnea, Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Diarrhea,
   No(t) Constipation
   Genitourinary: No(t) Dysuria
   Neurologic: No(t) Numbness / tingling, No(t) Headache
   Psychiatric / Sleep: Agitated
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-9-23**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 63 (60 - 79) bpm
   BP: 139/44(67) {127/37(60) - 160/106(119)} mmHg
   RR: 21 (20 - 32) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    892 mL
                                                                    350 mL
   PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                    302 mL
   Blood products:
                                                                    350 mL
                                                                    350 mL
   Total out:
                                                                    825 mL
                                                                    200 mL
   Urine:
                                                                    825 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     67 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: Systolic, No(t) Diastolic), II/VI SEM at
   USB
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   right base), (Breath Sounds: Crackles : posteriorly, L>R, Rhonchorous:
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, some abdominal
   breathing
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   451 K/uL
   9.6 g/dL
   228 mg/dL
   3.0 mg/dL
   22 mEq/L
   3.9 mEq/L
   81 mg/dL
   99 mEq/L
   135 mEq/L
   29.2 %
   18.0 K/uL
        [image002.jpg]
                             [**2196-9-22**]  02:39 AM
                             [**2196-9-22**]  11:10 AM
                             [**2196-9-23**]  04:00 AM
   WBC
   11.8
   18.0
   Hct
   24.1
   25.6
   29.2
   Plt
   391
   451
   Cr
   2.7
   2.8
   3.0
   TropT
   0.09
   0.09
   Glucose
   357
   355
   228
   Other labs: PT / PTT / INR:14.8/27.5/1.3, CK / CKMB /
   Troponin-T:110/5/0.09, ALT / AST:16/14, Alk Phos / T Bili:104/0.5,
   Albumin:3.0 g/dL, LDH:175 IU/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   66 yo male h/o biscupid aortic valve s/p AVR in [**2187**], complicated by
   prosthetic valve endocarditis requiring redo AVR, presented from floor
   with acute onset SOB, c/w flash pulm edema.  Dyspnea and oxygen
   requirement continues in setting of likely CAP
   .
   # Dyspnea:  initially most likely [**2-8**] diastolic dysfunction in setting
   of known HTN, with overlying CAP.  Pt quite hypertensive upon arrival
   to CCU, very anxious, with labored breathing.  No diastolic murmur
   noted on exam, but given history, must also consider prosthetic valve
   endocarditis.  Suspect that patient is not preload dependent.
   -  pt started on nitro gtt immediately upon arrival with good result,
   SBP now 170s-180s, down from 220s, with less dyspnea.  will attempt to
   wean overnight -> nitro was weaned off yesterday
   -  lasix 80 mg IV x 1 with metolazone 2.5 mg PO x 1, with goal (-) 1 to
   2 liters overnight -> little response, will defer additional diuretic
   therapy as pt now appears euvolemic, and worsening renal function
   likely pre-renal in etiology
   -  will give lisinopril, coreg, amlodipine tonight, hold [**Last Name (un) 239**] in setting
   of aggressive diuresis -> pt now on home anti-hypertensive regimen
   except for ACEi, [**Last Name (un) 239**]; replaced with imdur and hydralazine with good BP
   control
   -  O2 requirement and dyspnea continues, most likely [**2-8**] multifocal CAP
   -  will obtain non-contrast chest CT this morning, cont to renally dose
   levofloxacin and ceftriaxone
   -  will follow up blood culture and send urine culture to further eval
   leukocytosis; likely [**2-8**] CAP
   .
   # Acute on chronic renal failure
 likely pre-renal with bland sediment
   - appreciate renal recs
   - will check urine lytes, f/u renal ultrasound
   - strict Is/Os
   .
   # CORONARIES:  mild CAD from cath in [**2190**]
   -  will cont ASA, statin, B blockade and ACEi as above
   -  will cycle cardiac markers to rule out ischemia
   .
   # PUMP:  TTE in [**2192**] suggests mild diasolic dysfunction with preserved
   LVEF and stable bioprosthetic aortic valve
   -  pt likely has progressive LVH since [**2190**], will treat acute diastolic
   dysfunction
   -  TTE yesterday, see above -> little change from
03, preserved LVEF >
   55%, mild diastolic dysfunction
   .
   # RHYTHM:  in sinus rhythm with evidence of IVCD
   -  cont on telemetry
   .
   # anemia- suspect anemia of chronic renal disease vs. gastritis vs.
   chronic LGIB; low suspicion for active bleeding
   -  received 2 units PRBCs yesterday with good response
   -  iron studies suggest possible iron-deficiency anemia, will start
   iron today
   -  cont to monitor Hct
   .
   # Type II DM - lantus and SS [**Last Name (LF) 10263**], [**First Name3 (LF) **] pt's home sliding scale
   .
   # h/o depression/anxiety - stable, cont fluoxetine
   .
   # h/o gout - stable, cont allopurinol
   .
   FEN:  strict Is/Os, cardiac diet, replete lytes
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Bowel regimen with senna, bisacodyl
   .
   CODE: Presumed full
   .
   COMM: [**Name (NI) 673**], wife, [**Telephone/Fax (1) 10264**]
   .
   DISPO: possible transfer to MICU today for [**Last Name (un) **], CAP
   .
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 10265**] PGY-1
   [**Numeric Identifier 10266**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-9-21**] 10:07 PM
   18 Gauge - [**2196-9-21**] 10:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   Per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 50 minutes.
   Additional comments:
   Volume status remains a little unclear. There is JVD - approximately 15
   mm hg
   Will proceed with a right heart cath and central aortic pressure to
   help distinguish chf , intravascular volume status
   In regard to lung pathology - blood vs infection. wbc is rising
   Will proceed with a non contrast CT of the chest. Will also look at the
   abdomen because of inability to
   visualize one of the kidneys by ultrasound.
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Name (NI) **]
   on:[**2196-9-23**] 09:10 ------

2196-09-24 07:21:00 Physician Resident Progress Note
Chief Complaint: dyspnea
   24 Hour Events:
 CARDIAC CATH - At [**2196-9-23**] 12:00 PM
   R. heart cath -> reportedly had PCWP 17, other data unknown
   increased dyspnea o/n with anxiety/panic, increased hydralazine,
   received xanax with good effect, restarted nitro gtt for SBP in 160s
   ABG ->  7.48/32/69/25 placed on 5L n/c with improved O2 sat
   CXR -> worsening patchy infiltrates, particularly at right base (my
   read)
   CT chest, non-contrast, prelim read ->
   1. Extensive bilateral pulmonary hemorrhage with possible underlying
   infection or mass, which cannot be excluded.
   2. No additional source of acute process or infection identified in the
   abdomen or pelvis.
   1. Normal acceleration time in the right main renal artery with no
   evidence
   of right renal artery stenosis.
   2. Nondiagnostic left renal artery waveforms.
   3. Normal appearance and size of both kidneys.
   4. Morphological appearance of mild benign prostatic hyperplasia.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsAtivan (Injection)
   (Lorazepam)
   delirium;
   Morphine
   delirium;
   Last dose of Antibiotics:
   Levofloxacin - [**2196-9-23**] 01:44 PM
   Ceftriaxone - [**2196-9-23**] 04:00 PM
   Infusions:
   Nitroglycerin - 1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-9-23**] 08:02 AM
   Other medications:
   Changes to medical and family history:
   chills overnight; endorses increased panic/anxiety o/n improved with
   xanax
   no complaints this morning
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Respiratory: Cough, Dyspnea, Tachypnea, Wheeze, non-productive cough
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: Foley
   Integumentary (skin): No(t) Rash
   Neurologic: No(t) Numbness / tingling, No(t) Headache
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-9-24**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.3
C (97.4
   HR: 66 (66 - 92) bpm
   BP: 117/42(61) {117/30(53) - 184/62(93)} mmHg
   RR: 25 (19 - 35) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,089 mL
                                                                    280 mL
   PO:
             TF:
   IVF:
                                                                    259 mL
                                                                    160 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    950 mL
                                                                    200 mL
   Urine:
                                                                    950 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    139 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.48/32/69/20/0
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: Systolic, No(t) Diastolic), II/VI SEM at
   USB
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   right base), (Breath Sounds: Crackles : anteriorly, bibasilar, Wheezes
   : expiratory anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, interstitial edema in hands
   Skin:  Warm, Rash:
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   366 K/uL
   8.7 g/dL
   286 mg/dL
   3.6 mg/dL
   20 mEq/L
   4.1 mEq/L
   90 mg/dL
   100 mEq/L
   134 mEq/L
   27.1 %
   12.9 K/uL
        [image002.jpg]
                             [**2196-9-22**]  02:39 AM
                             [**2196-9-22**]  11:10 AM
                             [**2196-9-23**]  04:00 AM
                             [**2196-9-23**]  10:46 PM
                             [**2196-9-24**]  04:19 AM
   WBC
   11.8
   18.0
   12.9
   Hct
   24.1
   25.6
   29.2
   27.1
   Plt
   391
   451
   366
   Cr
   2.7
   2.8
   3.0
   3.6
   TropT
   0.09
   0.09
   TCO2
   25
   Glucose
   357
   355
   228
   286
   Other labs: PT / PTT / INR:15.1/30.2/1.3, CK / CKMB /
   Troponin-T:110/5/0.09, ALT / AST:16/14, Alk Phos / T Bili:104/0.5,
   Differential-Neuts:90.9 %, Lymph:5.1 %, Mono:3.7 %, Eos:0.2 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:175 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   66 yo male h/o biscupid aortic valve s/p AVR in [**2187**], complicated by
   prosthetic valve endocarditis requiring redo AVR, presented from floor
   with acute onset SOB, c/w flash pulm edema.  Dyspnea and oxygen
   requirement continues in setting of likely CAP
   .
   # Dyspnea/hypoxia:  initially most likely [**2-8**] diastolic dysfunction in
   setting of known HTN, with possible overlying pulmonary infection.  Pt
   quite hypertensive upon arrival to CCU, very anxious, with labored
   breathing.  No diastolic murmur noted on exam, but given history, must
   also consider prosthetic valve endocarditis.  Suspect that patient is
   not preload dependent.
   -  pt started on nitro gtt immediately upon arrival with good result,
   SBP now 170s-180s, down from 220s, with less dyspnea.  will attempt to
   wean overnight -> nitro was weaned off, then restarted yesterday, will
   wean again today
   - goal SBP 130s-140s
   -  lasix and metolazone -> little response, will defer additional
   diuretic therapy as pt now appears euvolemic to slightly hypervolemic
   with wedge of 17 mmHg
   -  will give lisinopril, coreg, amlodipine, hold [**Last Name (un) 239**] in setting of
   aggressive diuresis -> pt now on home anti-hypertensive regimen except
   for ACEi, [**Last Name (un) 239**]; replaced with imdur and Hydralazine -> nitro gtt
   restarted, Hydralazine increased, will wean nitro gtt this AM
   -  O2 requirement and dyspnea continues, most likely [**2-8**] multifocal CAP
   vs. viral (?influenza) vs. pulmonary hemorrhage (less likely) -> ?
   bronchoscopy to assist with diagnosis of lung pathology
   -  non-contrast chest CT as above, will await final read, cont to
   renally dose levofloxacin and ceftriaxone
   -  will follow up blood culture and send urine culture to further eval
   leukocytosis, which is improving
   .
   # Acute on chronic renal failure
 likely pre-renal with bland sediment
   - appreciate renal recs
   - will check urine lytes, f/u renal ultrasound -> no evidence of
   hydronephrosis or RAS
   - strict Is/Os
   - SCr continues to rise, ? lasix, levofloxacin renal toxicity/pre-renal
   in setting of likely chronic hypertensive glomerulosclerosis
   .
   # CORONARIES:  mild CAD from cath in [**2190**]
   -  will cont ASA, statin, B blockade and ACEi as above
   -  will cycle cardiac markers to rule out ischemia
   .
   # PUMP:  TTE in [**2192**] suggests mild diasolic dysfunction with preserved
   LVEF and stable bioprosthetic aortic valve
   -  pt likely has progressive LVH since [**2190**], will treat acute diastolic
   dysfunction
   -  TTE yesterday, see above -> little change from
03, preserved LVEF >
   55%, mild diastolic dysfunction
   -  will obtain full results of RHC yesterday
   .
   # RHYTHM:  in sinus rhythm with evidence of IVCD
   -  cont on telemetry, remains in NSR
   .
   # anemia- suspect anemia of chronic renal disease vs. gastritis vs.
   chronic LGIB; low suspicion for active bleeding
   -  received 2 units PRBCs yesterday with good response
   -  iron studies suggest possible iron-deficiency anemia, will start
   iron today
   -  cont to monitor Hct, stable
   .
   # Type II DM - lantus and SS [**Last Name (LF) 10263**], [**First Name3 (LF) **] pt's home sliding scale
   .
   # h/o depression/anxiety - stable, cont fluoxetine
   .
   # h/o gout - stable, cont allopurinol
   .
   FEN:  strict Is/Os, cardiac diet, replete lytes
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Bowel regimen with senna, bisacodyl
   .
   CODE: Presumed full
   .
   COMM: [**Name (NI) 673**], wife, [**Telephone/Fax (1) 10264**]
   .
   DISPO: possible transfer to MICU today for pulm eval, [**Last Name (un) **]
   .
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 10265**] PGY-1
   [**Numeric Identifier 10266**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-9-21**] 10:07 PM
   18 Gauge - [**2196-9-21**] 10:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Unclear reasons for pulmonary and renal dysfunction.  We will continue
   supportive measures with control of BP, diuresis.  Time of visit -
   10:30 on [**9-23**]/9.
   Above discussed extensively with patient. Above discussed extensively
   with patient
s wife.
   Total time spent on patient care: 45 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Name (NI) **], MD
   on:[**2196-9-26**] 12:51 ------

2196-09-25 07:55:00 Physician Resident Progress Note
Chief Complaint: dyspnea
   24 Hour Events:
 BLOOD CULTURED - At [**2196-9-25**] 03:35 AM
   bladder scan this morning > 400 cc
   Final CT chest:
   1. Diffuse bilateral central pulmonary opacities with associated
   fissural fluid and pleural effusions, large on the right and moderate
   on the left side, favoring pulmonary edema with superimposed infection.
   Pulmonary hemorrhage cannot be ruled out.
   2. No additional source of infection or acute process identified in the
   abdomen or pelvis.
   Discussed case with Dr. [**Last Name (STitle) 33**], he agreed to defer bronchoscopy today,
   will not change management, revisit tomorrow.
   ID recommended:
   - TEE to evaluate for endocarditis, especially in setting of recent
   detal work which preceded the symptoms.
   - Would favor bronchoscopy for diagnosis of possible infectious process
   and would send BAL fluid for the following:
   * bacterial cx, anaerobic cx, fungal stains and cx, viral cx, AFB smear
   and culture, legionella antigen, CMV shell vial cx, PCP.
   [**Name Initial (NameIs) **] Agree with nasopharyngeal swab for respiratory viral antigens.
   - If no bronch than would recommend induced sputum for the above.
   - Would continue current antibiotic cover with ceftriaxone and
   levofloxacin which will give good coverage for gram positive, gram
   negative as well as atypical bacterial organisms.
   - If there are gram positive cocci on either a sputum specimen or the
   BAL specimen, then would broaden with vancomycin for possible MRSA,
   although wouldn't empirically add it at this time
   repeat lytes concerning for AG met acidosis, delta-delta suggests
   possible overlying non-gap met acidosis, all likely [**2-8**] worsening renal
   failure; pt also developing hyponatremia -> deferred further diuresis
   for [**2196-9-24**]
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsAtivan (Injection)
   (Lorazepam)
   delirium;
   Morphine
   delirium;
   Last dose of Antibiotics:
   Levofloxacin - [**2196-9-23**] 01:44 PM
   Ceftriaxone - [**2196-9-24**] 04:14 PM
   Infusions:
   Nitroglycerin - 0.5 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2196-9-24**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2196-9-25**] 04:11 AM
   Other medications:
   Changes to medical and family history:
   feels "more human" this morning, no specific complaints, breathing
   improved, slept well overnight
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Respiratory: Cough, Dyspnea, No(t) Tachypnea, improving
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria
   Neurologic: No(t) Numbness / tingling
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-9-25**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 69 (65 - 78) bpm
   BP: 120/48(66) {117/37(59) - 153/56(74)} mmHg
   RR: 19 (18 - 30) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  1,274 mL
                                                                    137 mL
   PO:
             TF:
   IVF:
                                                                    674 mL
                                                                    137 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                      0 mL
   Urine:
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    174 mL
                                                                    137 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished, No acute distress, less anxious
   this morning
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic, No(t) Diastolic), II/VI SEM at usb
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   right base), (Breath Sounds: Crackles : rare, improved, Bronchial:
   posterior)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   353 K/uL
   9.2 g/dL
   315 mg/dL
   4.5 mg/dL
   18 mEq/L
   3.8 mEq/L
   106 mg/dL
   97 mEq/L
   132 mEq/L
   26.9 %
   13.0 K/uL
        [image002.jpg]
                             [**2196-9-22**]  02:39 AM
                             [**2196-9-22**]  11:10 AM
                             [**2196-9-23**]  04:00 AM
                             [**2196-9-23**]  10:46 PM
                             [**2196-9-24**]  04:19 AM
                             [**2196-9-24**]  04:38 PM
                             [**2196-9-25**]  02:55 AM
   WBC
   11.8
   18.0
   12.9
   13.0
   Hct
   24.1
   25.6
   29.2
   27.1
   26.9
   Plt
   391
   451
   366
   353
   Cr
   2.7
   2.8
   3.0
   3.6
   4.0
   4.5
   TropT
   0.09
   0.09
   TCO2
   25
   Glucose
   357
   355
   228
   286
   369
   315
   Other labs: PT / PTT / INR:15.1/30.2/1.3, CK / CKMB /
   Troponin-T:110/5/0.09, ALT / AST:16/14, Alk Phos / T Bili:104/0.5,
   Differential-Neuts:90.9 %, Lymph:5.1 %, Mono:3.7 %, Eos:0.2 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:175 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.4 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   66 yo male h/o biscupid aortic valve s/p AVR in [**2187**], complicated by
   prosthetic valve endocarditis requiring redo AVR, presented from floor
   with acute onset SOB, c/w flash pulm edema.  Dyspnea and oxygen
   requirement continues in setting of possible infection, ? CAP
   .
   # Dyspnea/hypoxia:  initially most likely [**2-8**] diastolic dysfunction in
   setting of known HTN, with possible overlying pulmonary infection.  Pt
   quite hypertensive upon arrival to CCU, very anxious, with labored
   breathing.  No diastolic murmur noted on exam, but given history, must
   also consider prosthetic valve endocarditis.  Suspect that patient is
   not preload dependent.
   -  pt started on nitro gtt immediately upon arrival with good result,
   SBP now 170s-180s, down from 220s, with less dyspnea.  will attempt to
   wean overnight -> nitro was weaned off, then restarted yesterday, and
   has been continued over past 24 hours
   - goal SBP 130s-140s
   -  lasix and metolazone -> little response
   -  lasix and diuril -> improved response, although Is/Os still even
   over 24 hours; deferred further diuresis overnight in light of lytes
   (Hyponatremia), worsening renal function
   - will attemp further diuresis today with goal 1L neg
   -  will give coreg, amlodipine, hold ACEi, [**Last Name (un) 239**] in setting of aggressive
   diuresis -> pt now on home anti-hypertensive regimen except for ACEi,
   [**Last Name (un) 239**]; replaced with imdur and Hydralazine -> nitro gtt restarted,
   Hydralazine and imdur increased
   -  O2 requirement and dyspnea continues, possibly [**2-8**] multifocal CAP
   vs. viral (?influenza) vs. pulmonary hemorrhage (less likely) -> ?
   bronchoscopy to assist with diagnosis of lung pathology, however pt is
   very reluctant, and question diagnostic yield at this point
   -  will follow up blood culture and send urine culture to further eval
   leukocytosis, which is improving; blood cultures drawn at PCP
[**Name Initial (PRE) **] office
   prior to admission are (-)
   .
   # Acute on chronic renal failure
 likely pre-renal with bland
   sediment, although pt appears eu-hypervolemic, and pt has preserved
   systolic function.  Pt may have significant chronic hypertensive
   glomerulosclerosis
   - appreciate renal recs
   - will check urine lytes, f/u renal ultrasound -> no evidence of
   hydronephrosis or RAS
   - strict Is/Os
   - SCr continues to rise despite improved diuresis yesterday
   - appreciate renal recs
   .
   # CORONARIES:  mild CAD from cath in [**2190**]
   -  will cont ASA, statin, B blockade and ACEi as above
   -  will cycle cardiac markers to rule out ischemia, and repeat if pt
   becomes acutely SOB
   .
   # PUMP:  TTE in [**2192**] suggests mild diasolic dysfunction with preserved
   LVEF and stable bioprosthetic aortic valve
   -  pt likely has progressive LVH since [**2190**], will treat acute diastolic
   dysfunction
   -  TTE yesterday, see above -> little change from
03, preserved LVEF >
   55%, mild diastolic dysfunction
   -  will obtain full results of RHC -> elevated left and right sided
   filling pressures, PA HTN
   .
   # RHYTHM:  in sinus rhythm with evidence of IVCD
   -  cont on telemetry, remains in NSR
   .
   # anemia- suspect anemia of chronic renal disease vs. gastritis vs.
   chronic LGIB; low suspicion for active bleeding
   -  received 2 units PRBCs yesterday with good response
   -  iron studies suggest possible iron-deficiency anemia, will start
   iron today
   -  cont to monitor Hct, stable
   .
   # Type II DM - lantus and SS [**Last Name (LF) 10263**], [**First Name3 (LF) **] pt's home sliding scale
   -  increased basal and SS insulin today for better control
   .
   # h/o depression/anxiety - stable, cont fluoxetine
   .
   # h/o gout - stable, cont allopurinol
   .
   FEN:  strict Is/Os, cardiac diet, replete lytes
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Bowel regimen with senna, bisacodyl
   .
   CODE: Presumed full
   .
   COMM: [**Name (NI) 673**], wife, [**Telephone/Fax (1) 10264**]
   .
   DISPO: CCU for now
   .
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 10265**] PGY-1
   [**Numeric Identifier 10266**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-9-24**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Date and time of visit was 9/20/9 at 10:30am
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name **] or health care proxy.
   Total time spent on patient care: 40 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Name (NI) **], MD
   on:[**2196-9-26**] 12:54 ------

2196-09-26 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Nitro drip off at noon
   Renal recs: considering HD as early as mon or tues if renal fcn
   continues to decline
   Per Dr. [**Last Name (STitle) 33**], risks of bronch outweight benefits right now.
   Given lasix 200 IV and diuril 500 IV this AM --> 500 cc urine
   Given Bumex 2 mg IV and diuril 500 IV in PM --> 1100 cc out
   This AM, patient reports
   Telemetry:
   Allergies:
   Ativan (Injection) (Lorazepam)
   delirium;
   Morphine
   delirium;
   Last dose of Antibiotics:
   Levofloxacin - [**2196-9-23**] 01:44 PM
   Ceftriaxone - [**2196-9-25**] 03:52 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2196-9-25**] 12:15 PM
   Heparin Sodium (Prophylaxis) - [**2196-9-25**] 01:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-9-26**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 80 (63 - 80) bpm
   BP: 133/46(68) {119/36(55) - 148/48(70)} mmHg
   RR: 19 (16 - 24) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
                  Total In:
                                                                    647 mL
                                                                     60 mL
   PO:
                                                                    420 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    227 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                  1,100 mL
   Urine:
                                                                  1,300 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -653 mL
                                                                 -1,040 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   399 K/uL
   8.6 g/dL
   202 mg/dL
   4.7 mg/dL
   20 mEq/L
   3.6 mEq/L
   112 mg/dL
   96 mEq/L
   133 mEq/L
   26.4 %
   10.6 K/uL
        [image002.jpg]
                             [**2196-9-22**]  02:39 AM
                             [**2196-9-22**]  11:10 AM
                             [**2196-9-23**]  04:00 AM
                             [**2196-9-23**]  10:46 PM
                             [**2196-9-24**]  04:19 AM
                             [**2196-9-24**]  04:38 PM
                             [**2196-9-25**]  02:55 AM
                             [**2196-9-25**]  04:20 PM
                             [**2196-9-26**]  03:30 AM
   WBC
   11.8
   18.0
   12.9
   13.0
   10.6
   Hct
   24.1
   25.6
   29.2
   27.1
   26.9
   26.4
   Plt
   391
   451
   366
   353
   399
   Cr
   2.7
   2.8
   3.0
   3.6
   4.0
   4.5
   4.7
   4.7
   TropT
   0.09
   0.09
   TCO2
   25
   Glucose
   357
   355
   228
   286
   [**Telephone/Fax (2) 10326**]02
   Other labs: PT / PTT / INR:14.6/29.3/1.3, CK / CKMB /
   Troponin-T:110/5/0.09, ALT / AST:16/14, Alk Phos / T Bili:104/0.5,
   Differential-Neuts:90.9 %, Lymph:5.1 %, Mono:3.7 %, Eos:0.2 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:175 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:6.7 mg/dL
   Assessment and Plan
 HYPERGLYCEMIA
 ANXIETY
 HYPERTENSION, BENIGN
 DYSPNEA (SHORTNESS OF BREATH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEART FAILURE, RIGHT, ISOLATED (COR PULMONALE)
 PULMONARY EDEMA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-9-24**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-09-26 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Nitro drip off at noon
   Renal recs: considering HD as early as mon or tues if renal fcn
   continues to decline
   Per Dr. [**Last Name (STitle) 33**], risks of bronch outweight benefits right now.
   Given lasix 200 IV and diuril 500 IV this AM --> 500 cc urine
   Given Bumex 2 mg IV and diuril 500 IV in PM --> 1100 cc overnight
   Not able to wean O2
   This AM, patient reports breathing feels somewhat improved.  Still
   nonproductive cough.  No other pain, dizziness or complaints.  Anxious
   about possibility of dialysis.
   Allergies:
   Ativan (Injection) (Lorazepam)
   delirium;
   Morphine
   delirium;
   Last dose of Antibiotics:
   Levofloxacin - [**2196-9-23**] 01:44 PM
   Ceftriaxone - [**2196-9-25**] 03:52 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2196-9-25**] 12:15 PM
   Heparin Sodium (Prophylaxis) - [**2196-9-25**] 01:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-9-26**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 80 (63 - 80) bpm
   BP: 133/46(68) {119/36(55) - 148/48(70)} mmHg
   RR: 19 (16 - 24) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
                  Total In:
                                                                    647 mL
                                                                     60 mL
   PO:
                                                                    420 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    227 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                  1,100 mL
   Urine:
                                                                  1,300 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -653 mL
                                                                 -1,040 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic), Mumur from aortic homograft
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Dullness : at bases), (Breath Sounds:
   Crackles : L > R at bases, Diminished: ), Poor air movement.  Improved
   from prior exams.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   399 K/uL
   8.6 g/dL
   202 mg/dL
   4.7 mg/dL
   20 mEq/L
   3.6 mEq/L
   112 mg/dL
   96 mEq/L
   133 mEq/L
   26.4 %
   10.6 K/uL
        [image002.jpg]
                             [**2196-9-22**]  02:39 AM
                             [**2196-9-22**]  11:10 AM
                             [**2196-9-23**]  04:00 AM
                             [**2196-9-23**]  10:46 PM
                             [**2196-9-24**]  04:19 AM
                             [**2196-9-24**]  04:38 PM
                             [**2196-9-25**]  02:55 AM
                             [**2196-9-25**]  04:20 PM
                             [**2196-9-26**]  03:30 AM
   WBC
   11.8
   18.0
   12.9
   13.0
   10.6
   Hct
   24.1
   25.6
   29.2
   27.1
   26.9
   26.4
   Plt
   391
   451
   366
   353
   399
   Cr
   2.7
   2.8
   3.0
   3.6
   4.0
   4.5
   4.7
   4.7
   TropT
   0.09
   0.09
   TCO2
   25
   Glucose
   357
   355
   228
   286
   [**Telephone/Fax (2) 10326**]02
   Other labs: PT / PTT / INR:14.6/29.3/1.3, CK / CKMB /
   Troponin-T:110/5/0.09, ALT / AST:16/14, Alk Phos / T Bili:104/0.5,
   Differential-Neuts:90.9 %, Lymph:5.1 %, Mono:3.7 %, Eos:0.2 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:175 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:6.7 mg/dL
   Assessment and Plan
   66 yo male h/o biscupid aortic valve s/p AVR in [**2187**], complicated by
   prosthetic valve endocarditis requiring redo AVR, presented from floor
   with acute onset SOB, c/w flash pulm edema.  Dyspnea and oxygen
   requirement continues in setting of possible infection versus pulm
   edema versus pulm hemorrhage.
   .
   # Dyspnea/hypoxia:  initially most likely [**2-8**] diastolic dysfunction in
   setting of known HTN, with possible overlying pulmonary infection.  Pt
   quite hypertensive upon arrival to CCU, very anxious, with labored
   breathing.  Chest imaging concerning for edema vs infection vs
   hemorrhage.  Respiratory status now improving.
   -  pt started on nitro gtt immediately upon arrival with good result,
   SBP now 170s-180s, down from 220s, with less dyspnea.  will attempt to
   wean overnight -> nitro was weaned off.
   - goal SBP 130s-140s
   -  lasix and metolazone -> little response
   -  lasix and diuril -> improved response
   - bumex and diuril -> better response
   - will continue diuresis today with bumex and diuril, goal 1L neg
   -  will give coreg, amlodipine, hold ACEi, [**Last Name (un) 239**] in setting of aggressive
   diuresis -> pt now on home anti-hypertensive regimen except for ACEi,
   [**Last Name (un) 239**]; replaced with imdur and Hydralazine -> nitro gtt restarted,
   Hydralazine and imdur increased
   -  O2 requirement and dyspnea continues, possibly [**2-8**] multifocal CAP
   vs. viral (?influenza) vs. pulmonary hemorrhage (less likely) -> per
   pulm, bronchoscopy risks would outweigh benefits at this point
   -  ID following, recs appreciated.  Will continue levo and ceftriaxone
   for now.
   - f/u cultures, induced sputum
   .
   # Acute on chronic renal failure
 likely pre-renal with bland
   sediment, although pt appears eu-hypervolemic, and pt has preserved
   systolic function.  Pt may have significant chronic hypertensive
   glomerulosclerosis
   - appreciate renal recs
   - will check urine lytes, f/u renal ultrasound -> no evidence of
   hydronephrosis or RAS
   - strict Is/Os
   - SCr continues to rise despite improved diuresis yesterday
   .
   # HTN : will continue regimen as above. Currently good BP control.
   .
   # CORONARIES:  mild CAD from cath in [**2190**], no evidence of MI
   currently.  CE neg.
   -  will cont ASA, statin, B blockade and ACEi as above
   .
   # PUMP:  TTE in [**2192**] suggests mild diasolic dysfunction with preserved
   LVEF and stable bioprosthetic aortic valve
   -  pt likely has progressive LVH since [**2190**], will treat acute diastolic
   dysfunction
   -  TTE yesterday, see above -> little change from
03, preserved LVEF >
   55%, mild diastolic dysfunction
   -  will obtain full results of RHC -> elevated left and right sided
   filling pressures, PA HTN
   .
   # RHYTHM:  in sinus rhythm with evidence of IVCD
   -  cont on telemetry, remains in NSR
   .
   # anemia- suspect anemia of chronic renal disease vs. gastritis vs.
   chronic LGIB; low suspicion for active bleeding
   -  received 2 units PRBCs yesterday with good response
   -  iron studies suggest possible iron-deficiency anemia, will start
   iron today
   -  cont to monitor Hct, stable
   .
   # Type II DM - lantus and SS [**Last Name (LF) 10263**], [**First Name3 (LF) **] pt's home sliding scale
   -  increased basal insulin today for better control
   .
   # h/o depression/anxiety - stable, cont fluoxetine
   .
   # h/o gout - stable, cont allopurinol
   .
   FEN:  strict Is/Os, cardiac diet, replete lytes
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Bowel regimen with senna, bisacodyl
   .
   CODE: Presumed full
   .
   COMM: [**Name (NI) 673**], wife, [**Telephone/Fax (1) 10264**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-9-24**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 10286**].
   I would add the following remarks:
   History
   Time and date of visit was 9/21/9 at 10:30
   Above discussed extensively with patient.
   Total time spent on patient care: 40 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Name (NI) **], MD
   on:[**2196-9-26**] 12:59 ------

2196-09-27 07:19:00 Physician Resident Progress Note
Chief Complaint: dyspnea
   24 Hour Events:
   Bumex 2 mg IV and diuril 500 mg IV given once in AM -> 1800 mL urine
   (net -1290). O2 weaned to 2L, pt maintaining sats in high 90s.  All
   cultures/blood work (-) to date
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsAtivan (Injection)
   (Lorazepam)
   delirium;
   Morphine
   delirium;
   Last dose of Antibiotics:
   Levofloxacin - [**2196-9-26**] 10:10 AM
   Ceftriaxone - [**2196-9-26**] 04:20 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-9-26**] 01:45 PM
   Other medications:
   Changes to medical and family history:
   feels good this morning, encouraged by improving renal function; c/o
   stuffy nose
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Foley
   Endocrine: Hyperglycemia
   Neurologic: No(t) Numbness / tingling, No(t) Headache
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-9-27**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.2
   HR: 72 (65 - 76) bpm
   BP: 144/41(66) {121/36(57) - 144/44(128)} mmHg
   RR: 21 (14 - 23) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 91.1 kg (admission): 89.4 kg
   Height: 72 Inch
                  Total In:
                                                                    510 mL
                                                                    120 mL
   PO:
                                                                    360 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    150 mL
   Blood products:
   Total out:
                                                                  1,925 mL
                                                                    550 mL
   Urine:
                                                                  1,925 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,415 mL
                                                                   -430 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: Systolic, No(t) Diastolic), SEM at LUSB
   II/VI
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : bibasilar, No(t) Wheezes : , Diminished:
   right base)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, minimal
   distention, unchanged
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   388 K/uL
   8.7 g/dL
   254 mg/dL
   4.2 mg/dL
   21 mEq/L
   3.9 mEq/L
   111 mg/dL
   100 mEq/L
   136 mEq/L
   26.6 %
   8.5 K/uL
        [image002.jpg]
                             [**2196-9-23**]  04:00 AM
                             [**2196-9-23**]  10:46 PM
                             [**2196-9-24**]  04:19 AM
                             [**2196-9-24**]  04:38 PM
                             [**2196-9-25**]  02:55 AM
                             [**2196-9-25**]  04:20 PM
                             [**2196-9-26**]  03:30 AM
                             [**2196-9-26**]  08:00 AM
                             [**2196-9-26**]  04:50 PM
                             [**2196-9-27**]  05:25 AM
   WBC
   18.0
   12.9
   13.0
   10.6
   8.5
   Hct
   29.2
   27.1
   26.9
   26.4
   26.6
   Plt
   451
   366
   353
   399
   388
   Cr
   3.0
   3.6
   4.0
   4.5
   4.7
   4.7
   4.5
   4.2
   TCO2
   25
   Glucose
   [**Telephone/Fax (3) 10333**]71
   254
   Other labs: PT / PTT / INR:14.6/29.3/1.3, CK / CKMB /
   Troponin-T:110/5/0.09, ALT / AST:16/14, Alk Phos / T Bili:104/0.5,
   Differential-Neuts:90.9 %, Lymph:5.1 %, Mono:3.7 %, Eos:0.2 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:175 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.4 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
   66 yo male h/o biscupid aortic valve s/p AVR in [**2187**], complicated by
   prosthetic valve endocarditis requiring redo AVR, presented from floor
   with acute onset SOB, c/w flash pulm edema.  Dyspnea and oxygen
   requirement now decreasing in setting of possible infection versus pulm
   edema versus pulm hemorrhage.
   .
   # Dyspnea/hypoxia:  initially most likely [**2-8**] diastolic dysfunction in
   setting of known HTN, with possible overlying pulmonary infection.  Pt
   quite hypertensive upon arrival to CCU, very anxious, with labored
   breathing.  Chest imaging concerning for edema vs infection vs
   hemorrhage.  Respiratory status now improving.
   -  pt started on nitro gtt immediately upon arrival with good result,
   SBP now 170s-180s, down from 220s, with less dyspnea.  will attempt to
   wean overnight -> nitro has been weaned off.
   - goal SBP 110s
 140s
   -  lasix and metolazone -> little response
   -  lasix and diuril -> improved response
   - bumex and diuril -> better response
   - will repeat diuresis today with a PO regimen, goal 1 L neg
   -  will give coreg, amlodipine, hold ACEi, [**Last Name (un) 239**] in setting of aggressive
   diuresis -> pt now on home anti-hypertensive regimen except for ACEi,
   [**Last Name (un) 239**]; replaced with imdur and Hydralazine -> increased hydral today,
   will likely increase carvedilol tomorrow.
   -  O2 requirement and dyspnea continues, possibly [**2-8**] multifocal CAP
   vs. viral (?influenza) vs. pulmonary hemorrhage (less likely) -> per
   pulm, bronchoscopy risks would outweigh benefits at this point
   -  ID following, recs appreciated.  Will continue levo and ceftriaxone
   for now ([**9-22**]-present), will likely d/c abx tomorrow
   - f/u cultures
   .
   # Acute on chronic renal failure
 likely [**2-8**] CHF with venous
   congestion (bland sediment), although pt appears eu-hypervolemic, and
   pt has preserved systolic function.  Pt may have significant chronic
   hypertensive glomerulosclerosis
   - appreciate renal recs
   - will check urine lytes, f/u renal ultrasound -> no evidence of
   hydronephrosis or RAS
   - strict Is/Os
   - SCr improving today, will cont with diuresis as above, repeat
   sediment bland
   .
   # HTN : will continue regimen as above. Currently good BP control.
   .
   # CORONARIES:  mild CAD from cath in [**2190**], no evidence of MI
   currently.  CE neg.
   -  will cont ASA, statin, B blockade as above, hold ACEi, [**Last Name (un) 239**]
   .
   # PUMP:  TTE in [**2192**] suggests mild diasolic dysfunction with preserved
   LVEF and stable bioprosthetic aortic valve
   -  pt likely has progressive LVH since [**2190**], will treat acute diastolic
   dysfunction
   -  TTE yesterday, see above -> little change from
03, preserved LVEF >
   55%, mild diastolic dysfunction
   -  will obtain full results of RHC -> elevated left and right sided
   filling pressures, PA HTN
   .
   # RHYTHM:  in sinus rhythm with evidence of IVCD
   -  cont on telemetry, remains in NSR
   .
   # anemia- suspect anemia of chronic renal disease vs. gastritis vs.
   chronic LGIB; low suspicion for active bleeding
   -  received 2 units PRBCs total with good response
   -  iron studies suggest possible iron-deficiency anemia, Fe
   supplementation started
   -  cont to monitor Hct, stable
   .
   # Type II DM - lantus and SS [**Last Name (LF) 10263**], [**First Name3 (LF) **] pt's home sliding scale
   -  increased basal insulin for better control
   .
   # h/o depression/anxiety - stable, cont fluoxetine
   .
   # h/o gout - stable, cont allopurinol
   .
   FEN:  strict Is/Os, cardiac diet, replete lytes
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Bowel regimen with senna, bisacodyl
   .
   CODE: Presumed full
   .
   COMM: [**Name (NI) 673**], wife, [**Telephone/Fax (1) 10264**]
   .
   DISPO: CCU for now, possible call out today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-9-21**] 10:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 10286**].
   I would add the following remarks:
   Above discussed extensively with patient.
   Total time spent on patient care: 40 minutes of critical care time.
   Additional comments:
   date of service was 9/22/9 at 10:30am. Critically ill due to hypoxia,
   acute on chronic diastolic heart failure, renal failure, pneumonia.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Name (NI) **], MD
   on:[**2196-9-28**] 09:16 ------

2196-09-28 06:58:00 Physician Resident Progress Note
Chief Complaint: dyspnea
   24 Hour Events:
   [**2196-9-27**]: Diuril + Bumex PO. D/C'd ceftriaxone. Changed hydralazine to
   100 po q6.  PM lytes showed improving creatinine, mild hypokalemia.
   Continues to oxygenate well on RA.  No events overnight.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsAtivan (Injection)
   (Lorazepam)
   delirium;
   Morphine
   delirium;
   Last dose of Antibiotics:
   Levofloxacin - [**2196-9-26**] 10:10 AM
   Ceftriaxone - [**2196-9-26**] 04:20 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-9-28**] 06:31 AM
   Other medications:
   Changes to medical and family history:
   c/o "gurgling" stomach, increased loose stools, non-bloody, no abd.
   pain.  dyspnea resolved, no other complaints
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley
   Neurologic: No(t) Numbness / tingling
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-9-28**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.1
   HR: 69 (63 - 73) bpm
   BP: 152/48(73) {123/35(57) - 152/53(74)} mmHg
   RR: 20 (13 - 23) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 90.2 kg (admission): 89.4 kg
   Height: 72 Inch
                  Total In:
                                                                    440 mL
                                                                    360 mL
   PO:
                                                                    440 mL
                                                                    360 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                    525 mL
   Urine:
                                                                  2,450 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,010 mL
                                                                   -165 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: Systolic, No(t) Diastolic), II/VI SEM at
   LUSB, no diastolic murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : bibasilar, improved, No(t) Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   419 K/uL
   9.0 g/dL
   172 mg/dL
   3.7 mg/dL
   22 mEq/L
   3.9 mEq/L
   107 mg/dL
   102 mEq/L
   137 mEq/L
   28.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2196-9-24**]  04:19 AM
                             [**2196-9-24**]  04:38 PM
                             [**2196-9-25**]  02:55 AM
                             [**2196-9-25**]  04:20 PM
                             [**2196-9-26**]  03:30 AM
                             [**2196-9-26**]  08:00 AM
                             [**2196-9-26**]  04:50 PM
                             [**2196-9-27**]  05:25 AM
                             [**2196-9-27**]  06:38 PM
                             [**2196-9-28**]  03:57 AM
   WBC
   12.9
   13.0
   10.6
   8.5
   9.7
   Hct
   27.1
   26.9
   26.4
   26.6
   28.0
   Plt
   366
   353
   399
   388
   419
   Cr
   3.6
   4.0
   4.5
   4.7
   4.7
   4.5
   4.2
   4.0
   3.7
   Glucose
   286
   369
   315
   [**Telephone/Fax (2) 10342**]54
   121
   172
   Other labs: PT / PTT / INR:14.6/29.3/1.3, CK / CKMB /
   Troponin-T:110/5/0.09, ALT / AST:16/14, Alk Phos / T Bili:104/0.5,
   Differential-Neuts:90.9 %, Lymph:5.1 %, Mono:3.7 %, Eos:0.2 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:175 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.5 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
   66 yo male h/o biscupid aortic valve s/p AVR in [**2187**], complicated by
   prosthetic valve endocarditis requiring redo AVR, presented from floor
   with acute onset SOB, c/w flash pulm edema.  Dyspnea and oxygen
   requirement now decreasing in setting of possible infection versus pulm
   edema versus pulm hemorrhage.
   .
   # Dyspnea/hypoxia:  initially most likely [**2-8**] diastolic dysfunction in
   setting of known HTN, with possible overlying pulmonary infection.  Pt
   quite hypertensive upon arrival to CCU, very anxious, with labored
   breathing.  Chest imaging concerning for edema vs infection vs
   hemorrhage.  Respiratory status now improving, stable on room air.
   -  pt started on nitro gtt immediately upon arrival with good result,
   SBP now 170s-180s, down from 220s, with less dyspnea.  will attempt to
   wean overnight -> nitro has been weaned off.
   - goal SBP 110s
 130s
   -  lasix and metolazone -> little response
   -  lasix and diuril -> improved response
   - bumex and diuril -> better response
   -  will give coreg, amlodipine, hold ACEi, [**Last Name (un) 239**] in setting of aggressive
   diuresis -> pt now on home anti-hypertensive regimen except for ACEi,
   [**Last Name (un) 239**]; replaced with imdur and Hydralazine -> increased hydral and
   nifedipine.
   -  ID following, recs appreciated.  Will continue levo and ceftriaxone
   for now ([**9-22**]-present) -> ceftriaxone d/c
d, levoflox for 10d
   - f/u cultures
   - will transition to po lasix and metolazone for diuresis.
   .
   # Acute on chronic renal failure
 likely [**2-8**] CHF with venous
   congestion (bland sediment), although pt appears eu-hypervolemic, and
   pt has preserved systolic function.  Pt may have significant chronic
   hypertensive glomerulosclerosis
   - appreciate renal recs
   - will check urine lytes, f/u renal ultrasound -> no evidence of
   hydronephrosis or RAS
   - strict Is/Os
   - SCr improving today, will cont with diuresis as above, repeat
   sediment bland
   .
   # HTN : will continue regimen as above. Currently good BP control.
   - change imdur to night dosing given morning BP slightly increased
   .
   # CORONARIES:  mild CAD from cath in [**2190**], no evidence of MI
   currently.  CE neg.
   -  will cont ASA, statin, B blockade as above, hold ACEi, [**Last Name (un) 239**]
   .
   # PUMP:  TTE in [**2192**] suggests mild diasolic dysfunction with preserved
   LVEF and stable bioprosthetic aortic valve
   -  pt likely has progressive LVH since [**2190**], will treat acute diastolic
   dysfunction
   -  TTE yesterday, see above -> little change from
03, preserved LVEF >
   55%, mild diastolic dysfunction
   -  will obtain full results of RHC -> elevated left and right sided
   filling pressures, PA HTN
   .
   # RHYTHM:  in sinus rhythm with evidence of IVCD
   -  cont on telemetry, remains in NSR
   .
   # anemia- suspect anemia of chronic renal disease vs. gastritis vs.
   chronic LGIB; low suspicion for active bleeding
   -  received 2 units PRBCs total with good response
   -  iron studies suggest possible iron-deficiency anemia, Fe
   supplementation started
   -  cont to monitor Hct, stable
   -  pt will need colonoscopy following discharge
   .
   # Type II DM - lantus and SS [**Last Name (LF) 10263**], [**First Name3 (LF) **] pt's home sliding scale
   -  increased basal insulin for better control
   .
   # h/o depression/anxiety - stable, cont fluoxetine
   .
   # h/o gout - stable, cont allopurinol
   .
   FEN:  strict Is/Os, cardiac diet, replete lytes
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Bowel regimen with senna, bisacodyl
   .
   CODE: Presumed full
   .
   COMM: [**Name (NI) 673**], wife, [**Telephone/Fax (1) 10264**]
   .
   DISPO: CCU for now, possible call out today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-9-28**] 05:55 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name **] or health care proxy.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   Date of service was 9/23/9 at 10am. Critically ill due to acute
   diastolic CHF, acute renal failure, hypoxia, pneumonia, aortic
   stenosis.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Name (NI) **], MD
   on:[**2196-9-29**] 16:25 ------

2196-09-29 07:57:00 Physician Resident Progress Note
Chief Complaint: dyspnea
   24 Hour Events:
   PM lytes wnl
   rec'd bumex and diuril in AM --> 1680 out
   rec'd lasix and metolazone at 4pm --> ~ 1 L out
   repeat c diff not yet sent
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsAtivan (Injection)
   (Lorazepam)
   delirium;
   Morphine
   delirium;
   Last dose of Antibiotics:
   Ceftriaxone - [**2196-9-26**] 04:20 PM
   Levofloxacin - [**2196-9-28**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-9-28**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   immodium improving frequency of BM, one since starting med
   no dyspnea
   feeling well
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria
   Neurologic: No(t) Numbness / tingling
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-9-29**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 63 (63 - 76) bpm
   BP: 150/48(71) {123/31(60) - 150/50(71)} mmHg
   RR: 12 (12 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.2 kg (admission): 89.4 kg
   Height: 72 Inch
                  Total In:
                                                                  1,340 mL
                                                                     30 mL
   PO:
                                                                  1,240 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                    725 mL
   Urine:
                                                                  2,350 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,010 mL
                                                                   -695 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: Systolic, No(t) Diastolic), II/VI
   systolic murmur at USB
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Crackles : rare right base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   419 K/uL
   9.0 g/dL
   224 mg/dL
   3.5 mg/dL
   23 mEq/L
   4.1 mEq/L
   103 mg/dL
   102 mEq/L
   137 mEq/L
   28.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2196-9-24**]  04:38 PM
                             [**2196-9-25**]  02:55 AM
                             [**2196-9-25**]  04:20 PM
                             [**2196-9-26**]  03:30 AM
                             [**2196-9-26**]  08:00 AM
                             [**2196-9-26**]  04:50 PM
                             [**2196-9-27**]  05:25 AM
                             [**2196-9-27**]  06:38 PM
                             [**2196-9-28**]  03:57 AM
                             [**2196-9-28**]  04:00 PM
   WBC
   13.0
   10.6
   8.5
   9.7
   Hct
   26.9
   26.4
   26.6
   28.0
   Plt
   353
   399
   388
   419
   Cr
   4.0
   4.5
   4.7
   4.7
   4.5
   4.2
   4.0
   3.7
   3.5
   Glucose
   [**Telephone/Fax (2) 10347**]
   [**Telephone/Fax (3) 10348**]
   224
   Other labs: PT / PTT / INR:14.6/29.3/1.3, CK / CKMB /
   Troponin-T:110/5/0.09, ALT / AST:16/14, Alk Phos / T Bili:104/0.5,
   Differential-Neuts:90.9 %, Lymph:5.1 %, Mono:3.7 %, Eos:0.2 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:175 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   66 yo male h/o biscupid aortic valve s/p AVR in [**2187**], complicated by
   prosthetic valve endocarditis requiring redo AVR, presented from floor
   with acute onset SOB, c/w flash pulm edema.  Dyspnea and oxygen
   requirement now decreasing in setting of possible infection versus pulm
   edema versus pulm hemorrhage.
   .
   # Dyspnea/hypoxia:  initially most likely [**2-8**] diastolic dysfunction in
   setting of known HTN, with possible overlying pulmonary infection.  Pt
   quite hypertensive upon arrival to CCU, very anxious, with labored
   breathing.  Chest imaging concerning for edema vs infection vs
   hemorrhage.  Respiratory status now improving, stable on room air.
   -  pt started on nitro gtt immediately upon arrival with good result,
   SBP now 170s-180s, down from 220s, with less dyspnea.  will attempt to
   wean overnight -> nitro has been weaned off.
   - goal SBP 110s
 130s
   -  lasix and metolazone -> little response
   -  lasix and diuril -> improved response
   - bumex and diuril -> better response
   -  will give coreg, amlodipine, hold ACEi, [**Last Name (un) 239**] in setting of aggressive
   diuresis -> pt now on home anti-hypertensive regimen except for ACEi,
   [**Last Name (un) 239**]; replaced with imdur and Hydralazine -> increased hydral and
   nifedipine.
   -  ID following, recs appreciated.  Will continue levo and ceftriaxone
   for now ([**9-22**]-present) -> ceftriaxone d/c
d, levoflox for 10d
   - f/u cultures
   - will transition to po lasix and metolazone for diuresis.
   .
   # Acute on chronic renal failure
 likely [**2-8**] CHF with venous
   congestion (bland sediment), although pt appears eu-hypervolemic, and
   pt has preserved systolic function.  Pt may have significant chronic
   hypertensive glomerulosclerosis
   - appreciate renal recs
   - will check urine lytes, f/u renal ultrasound -> no evidence of
   hydronephrosis or RAS
   - strict Is/Os
   - SCr improving today, will cont with diuresis as above, repeat
   sediment bland
   .
   # HTN : will continue regimen as above. Currently good BP control.
   - change imdur to night dosing given morning BP slightly increased
   .
   # CORONARIES:  mild CAD from cath in [**2190**], no evidence of MI
   currently.  CE neg.
   -  will cont ASA, statin, B blockade as above, hold ACEi, [**Last Name (un) 239**]
   .
   # PUMP:  TTE in [**2192**] suggests mild diasolic dysfunction with preserved
   LVEF and stable bioprosthetic aortic valve
   -  pt likely has progressive LVH since [**2190**], will treat acute diastolic
   dysfunction
   -  TTE yesterday, see above -> little change from
03, preserved LVEF >
   55%, mild diastolic dysfunction
   -  will obtain full results of RHC -> elevated left and right sided
   filling pressures, PA HTN
   .
   # RHYTHM:  in sinus rhythm with evidence of IVCD
   -  cont on telemetry, remains in NSR
   .
   # anemia- suspect anemia of chronic renal disease vs. gastritis vs.
   chronic LGIB; low suspicion for active bleeding
   -  received 2 units PRBCs total with good response
   -  iron studies suggest possible iron-deficiency anemia, Fe
   supplementation started
   -  cont to monitor Hct, stable
   -  pt will need colonoscopy following discharge
   .
   # Type II DM - lantus and SS [**Last Name (LF) 10263**], [**First Name3 (LF) **] pt's home sliding scale
   -  increased basal insulin for better control
   .
   # h/o depression/anxiety - stable, cont fluoxetine
   .
   # h/o gout - stable, cont allopurinol
   .
   FEN:  strict Is/Os, cardiac diet, replete lytes
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Bowel regimen with senna, bisacodyl
   .
   CODE: Presumed full
   .
   COMM: [**Name (NI) 673**], wife, [**Telephone/Fax (1) 10264**]
   .
   DISPO: CCU for now, possible call out today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-9-28**] 05:55 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: